* C:\Users\HPz420\Documents\GitHub\R32V2020\VHDL\Components\SoundGen\Documentation\SPICE_Simulations\Cap_Edge_Soften.asc
V1 N001 0 PULSE(0 3.3 .0025 2nS 2nS 0.0025 .005)
R1 N002 N001 4700
C1 N002 0 4.7µF
R2 N002 0 100
.tran .04
.backanno
.end
